US04609730
To a stirred suspension of Vilsmeier reagent prepared from N,N-dimethylformamide (0.56 ml) and phosphorus oxychloride (0.664 ml) in tetrahydrofuran (11 ml) in a usual manner was added 2-methoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.38 g) under ice-cooling and the mixture was stirred for 30 minutes at the same temperature. To a solution of benzhydryl 7-amino-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate hydrochloride (2.5 g) and monotrimethylsilylacetamide (3.95 g) in ethyl acetate (25 ml) was added the activated acid solution obtained above at -20° C. and mixture was stirred at -20° to -10° C. for 30 minutes. After water and ethyl acetate were added to the resultant mixture, the separated organic layer was washed in turn with saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate (syn isomer) (2.28 g).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.664 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 1.38 g | CON=C(C(=O)O)C=1N=C(SC1)NC=O | C7H7N3O4S
reactant | benzhydryl 7-amino-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate hydrochloride | 2.5 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C(Cl)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.56 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate | 2.28 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C(Cl)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C29H23Cl2N5O6S2
